US08981111B2
A solution of (1-methyl-1H-imidazol-2-yl)(phenyl)methanone (20.8 g, 112 mmol) and hydroxylamine hydrochloride (19.4 g, 279 mmol) in pyridine (120 mL) was stirred 8 h at 50° C. then overnight at room temperature. After removal of the solvent in vacuo, addition of water (500 mL) induced precipitation of a white solid that was filtered off, washed with water (2×50 mL) and dried. A second filtration of the liquor yielded a second crop of solid. The combined crops afforded N-hydroxy-1-(1-methyl-1H-imidazol-2-yl)-1-phenylmethanimine [18.5 g, yield 80%; HPLC/MS: m/z=202 (M+H); log P(HCOOH)=0.24].

reactant | (1-methyl-1H-imidazol-2-yl)(phenyl)methanone | 112 mmol, 20.8 g | CN1C(=NC=C1)C(=O)C1=CC=CC=C1 | C11H10N2O
reactant | hydroxylamine hydrochloride | 279 mmol, 19.4 g | Cl.NO
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-(1-methyl-1H-imidazol-2-yl)-1-phenylmethanimine | 18.5 g, yield 80% | ON=C(C1=CC=CC=C1)C=1N(C=CN1)C | C11H11N3O
